US06225320B1
3-Bromo-2-chloro-5-nitropyridine
3-Bromo-2-hydroxy-5-nitropyridine (8.5 g, 39 mmol) and N,N′-dimethylformamide (0.5 ml) in chloroform (75 ml) were treated dropwise with phosphorous oxychloride (7.3 ml, 80.2 mmol) and heated at reflux for 24 hrs. The mixture was then cooled and concentrated, before being partitioned between ethyl acetate (80 ml) and sodium hydrogen carbonate solution (50 ml). The organic phase was washed with brine (100 ml), dried Na2SO4) and concentrated to give the product as a yellow solid (8.88 g).

reactant | 3-Bromo-2-hydroxy-5-nitropyridine | 39 mmol, 8.5 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3BrN2O3
reactant | N,N′-dimethylformamide | 0.5 ml | CN(C)C=O | C3H7NO
reactant | phosphorous oxychloride | 80.2 mmol, 7.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-2-chloro-5-nitropyridine | 8.88 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
